US04562186
(3-Benzoyl-1,2,4-oxadiazol-5-yl)acetic acid
To a flask containing 8.6 g of isopropyl(3-benzoyl-1,2,4-oxadiazol-5-yl)acetate, which had been cooled in an ice bath, was added 50 ml of cold 97% sulfuric acid. This mixture was swirled continuously for three minutes. The resultant solution was poured gradually into one liter of ice water with mechanical stirring to precipitate the product. The solid was collected by filtration, washed with excess water and dried in vacuo. Recrystallization from acetone/hexane gave 3.5 g (48%) of crystals, m.p. 143°-144.5°.

reactant | isopropyl(3-benzoyl-1,2,4-oxadiazol-5-yl)acetate | 8.6 g | C(C)(C)OC(CC1=NC(=NO1)C(C1=CC=CC=C1)=O)=O | C14H14N2O4
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | (3-Benzoyl-1,2,4-oxadiazol-5-yl)acetic acid | 3.5 g, 48% | C(C1=CC=CC=C1)(=O)C1=NOC(=N1)CC(=O)O | C11H8N2O4
